US06384080B1
To a mixture of 2-cyclopentylamino-5-nitrobenzoic acid (1.00 g), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.15 g), 1-hydroxybenzotriazole (810 mg) in anhydrous dimethylformamide (10 mL) was added (1,3-benzodioxol-5-ylmethyl)amine (725 mg), and the mixture was stirred for 15 hours at ambient temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was separated and washed with an aqueous saturated sodium bicarbonate solution, water and brine. Then, the resultant was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of chloroform and methanol (50:1). The obtained product was triturated with diisopropyl ether and recrystallized from a mixture of hexane and ethyl acetate to give 2-cyclopentylamino-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide as yellow powders (1.51 g).

reactant | 2-cyclopentylamino-5-nitrobenzoic acid | 1.00 g | C1(CCCC1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C12H14N2O4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.15 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 810 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (1,3-benzodioxol-5-ylmethyl)amine | 725 mg | O1COC2=C1C=CC(=C2)CN | C8H9NO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-cyclopentylamino-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 1.51 g | C1(CCCC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C20H21N3O5
